US04278671
In 10 ml of 50% aqueous ethanol is dissolved 200 mg of ethyl 2-aminothiazol-4-yl-glyoxylate, followed by the addition of 166 mg of O-methylhydroxylamine hydrochloride and, then, 168 mg of sodium hydrogen carbonate. The mixture is stirred in a closed vessel at 70° C. for 5 hours. The reaction mixture is concentrated under reduced pressure and the residue is diluted with 10 ml of water and extracted with ethyl acetate. The ethyl acetate layer is washed with water and dried. The ethyl acetate is then distilled off to obtain ethyl 2-(2-aminothiazol-4-yl)-2-methoxyiminoacetate as crystals. Based on NMR and other data, this product is found to be an 83:17 mixture of syn- and anti-isomers.

reactant | ethyl 2-aminothiazol-4-yl-glyoxylate | 200 mg | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | O-methylhydroxylamine hydrochloride | 166 mg | Cl.CON
reactant | sodium hydrogen carbonate | 168 mg | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-(2-aminothiazol-4-yl)-2-methoxyiminoacetate | NC=1SC=C(N1)C(C(=O)OCC)=NOC | C8H11N3O3S
